Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
amoxicillin / Cipro / Percocet / Vicodin / Nexium / doxycycline
 
Attending: ___
 
Chief Complaint:
left IPH
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is an ___ year old woman with a prior history of 
lung cancer (diagnosed ___, s/p chemo/partial right lobectomy 
with right lung metastasis s/p XRT ___, radiation-related 
dysphagia s/p GJ tube placement, chronic headaches (on 
Fiorocet), COPD, and well-controlled hypertension who presents 
as a transfer from ___ with left parietal 
occipital
intraparenchymal hemorrhage.

History is obtained from the patient's daughter, ___, and the 
patient's husband, ___.

The patient was well until 1:30 - 2 ___ this afternoon.  She had 
been texting with her daughter until this time without any word 
errors or misspelling. The night before, she has been in her 
usual state of health, watching movies and joking with family. 

At 2 ___, the patient's husband suddenly heard her yelling out 
from the bathroom for help. It is not clear if she hit her head. 
He found her on the bathroom floor complaining of left hip pain. 
There was no clear injury to the scalp and no head laceration. 
Patient stated at that time that she may have tripped over her 
oxygen tank tubing.  EMS was activated and the patient was 
brought to ___. According to the patient's 
daughter, she was apparently talking in full sentences, 
conversing normally with the EMS techs prior to arrival at 
___.

There she underwent CT head which revealed left 
parieto-occipital intraparenchymal hemorrhage.  She was 
transferred to ___ further 
evaluation.  En route, her mental status deteriorated according 
to ___ flight staff and she began only speaking in 1 and 2 word 
phrases. She also developed left gaze preference and right sided 
weakness. 

 
Past Medical History:
Lung cancer (bronchogenic carcinoma stage 1B) s/p radiation and 
thoracic surgery in ___ c/b need for gtube placement
Hypertension
Hyperlipidemia
GERD
COPD
Tension HA
Allergic rhinitis  
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Expired
 
Pertinent Results:
Expired
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital after a fall at home, 
found to have a large left parieto-occipital hemorrhage. This 
was thought to be secondary to amyloid angiopathy or 
hypertension. She was admitted to the ICU for close monitoring. 
There was concern for development of edema and she was 
subsequently treated with mannitol. After a family meeting, she 
was made DNR/DNI given her underlying medical comorbidities. 
Over the subsequent hospital course, she appeared to be 
improving from a neurologic stand point, including being able to 
mouth some words. Medical issues while admitted notable for 
hypoxemic respiratory failure due to mucus plugging, demand 
ischemia, hyponatremia, tube feed intolerance/gastroparesis, 
which were treated by the ICU team and were noted to be 
improving. Mannitol was weaned off after several days as she 
continued to show progression. On hospital day 6, she abruptly 
went into PEA, etiology unknown. She expired on ___.
 
Medications on Admission:
Expired
 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Non-traumatic Intracerebral hemorrhage
Hypercapneic respiratory failure
 
Discharge Condition:
Deceased
 
Discharge Instructions:
Not applicable
 
Followup Instructions:
___